US06255496B1
4-[N-Dodecyl-N-2-[4-[3-hydroxy-4,4,4-trifluorobutyl]phenoxy]ethylamino]butanoic acid, ethyl ester
A mixture of 4-[N-dodecyl-N-2-[4-(E)-[3-hydroxy-4,4,4-trifluorobut-1-en-1-yl]phenoxy]ethylamino] butanoic acid, ethyl ester (3.5 g, 6.46 mmol), palladium on activated carbon (10%, 0.6 g) and ethyl acetate (250 ml) was hydrogenated under 30 psi for 6 h. After filtration, the solvent was removed in vacuo to give the title compound (3.3 g, 94%) as a colorless oil.

reactant | 4-[N-dodecyl-N-2-[4-(E)-[3-hydroxy-4,4,4-trifluorobut-1-en-1-yl]phenoxy]ethylamino] butanoic acid, ethyl ester | 6.46 mmol, 3.5 g | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)\C=C\C(C(F)(F)F)O)CCCC(=O)OCC | C30H48F3NO4
catalyst | palladium on activated carbon | 0.6 g | [Pd] | Pd
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 4-[N-Dodecyl-N-2-[4-[3-hydroxy-4,4,4-trifluorobutyl]phenoxy]ethylamino]butanoic acid, ethyl ester | 3.3 g, 94% | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)O)CCCC(=O)OCC | C30H50F3NO4
